options savecurrents

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

.INCLUDE data_t4_inc.txt

F1 a 0 Vo 1
Rteste a 0 1

.op
.end

.control

print all


* frequency analysis
ac dec 10 10 100MEG
*plot vdb(coll)
*plot vp(coll)
hardcopy vo1f_inc.ps vdb(coll)


*plot vdb(out)
*plot vp(out)
hardcopy vo2f_inc.ps vdb(out)

echo Zo
let Zo = v(out)/Vo#branch


*plot Zo
hardcopy Zo_inc.ps Zo


*print Vo#branch

echo Zo = 1/Vo#branch
print Zo[40]


print re(Zo[40]) im(Zo[40]) abs(Zo[40])> result_sim_inc.txt 
quit
.endc 


